### PR TITLE
[Merged by Bors] - feat: establish principles of isolated zeros / identity principles for meromorphic functions

### PR DESCRIPTION
**Pull request by kebekus**
In line with results in `Mathlib.Analysis.Analytic.IsolatedZeros` and `Mathlib.Analysis.Analytic.Uniqueness`, establish principles of isolated zeros and identity principles for meromorphic functions.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane. Integrability of log ∘ sin might be useful in future discussions of polylogarithms.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/IsolatedZeros.lean [hunk 1]
```diff
@@ -0,0 +1,102 @@
...
+  ⟨hf.eventually_eq_zero_or_eventually_ne_zero.resolve_right, fun h ↦ h.frequently⟩
+
+/--
+Variant of `MeromorphicAt.frequently_zero_iff_eventuallyEq_zero`: If `f` is mermorphic at `x`, then
+`f` vanishes eventually in a punctured neighborhood of `x` iff it vanishes at points arbitrarily
+close to (but different from) `x`.
+
+See `AnalyticAt.frequently_zero_iff_eventually_zero` for a stronger result in the analytic case.
+-/
+theorem frequently_zero_iff_eventuallyEq_zero (hf : MeromorphicAt f x) :
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/IsolatedZeros.lean:40]: Deleted one statement.

File: Mathlib/Analysis/Meromorphic/IsolatedZeros.lean [hunk 2]
```diff
@@ -0,0 +1,92 @@
...
+open Filter Topology
+
+namespace MeromorphicAt
+
+/-!
+## Principles of Isolated Zeros
+-/
+
+/--
+The principle of isolated zeros: If `f` is mermorphic at `x`, then `f` vanishes eventually in a
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/IsolatedZeros.lean]:
```suggestion
The principle of isolated zeros: If `f` is meromorphic at `x`, then `f` vanishes eventually in a
```

File: Mathlib/Analysis/Meromorphic/IsolatedZeros.lean [hunk 3]
```diff
@@ -0,0 +1,92 @@
...
+    Set.mem_setOf_eq, and_imp]
+  tauto
+
+/-!
+## Identity Principles
+-/
+
+/--
+Formulation of `MeromorphicAt.frequently_zero_iff_eventuallyEq_zero` as an identity principle: If
+`f` and `g` are mermorphic at `x`, then `f` and `g` agree eventually in a punctured neighborhood of
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/IsolatedZeros.lean]:
```suggestion
`f` and `g` are meromorphic at `x`, then `f` and `g` agree eventually in a punctured neighborhood of
```

File: Mathlib/Topology/ClusterPt.lean [hunk 4]
```diff
@@ -183,6 +183,18 @@ there are points near `x` in `C` and different from `x`. -/
 theorem accPt_iff_frequently {x : X} {C : Set X} : AccPt x (𝓟 C) ↔ ∃ᶠ y in 𝓝 x, y ≠ x ∧ y ∈ C := by
   simp [accPt_principal_iff_clusterPt, clusterPt_principal_iff_frequently, and_comm]
 
+/--
+Variant of `accPt_iff_frequently`: A point `x` is an accumulation point of a set `C` iff points in
+punctured neighborhoods are frequently contained in `C`.
+-/
+theorem accPt_iff_frequently_nhdNE {X : Type*} [TopologicalSpace X] {x : X} {C : Set X} :
+    AccPt x (Filter.principal C) ↔ ∃ᶠ (y : X) in 𝓝[≠] x, y ∈ C := by
```
Comment (sgouezel) [inline Mathlib/Topology/ClusterPt.lean]: Can you use the notation for `Filter.principal`?

Also, instead of `nhd`, can you use `nhds`, here and elsewhere? That's the standard spelling throughout mathlib.

File: Mathlib/Topology/DiscreteSubset.lean [hunk 5]
```diff
@@ -109,6 +109,14 @@ lemma mem_codiscreteWithin {S T : Set X} :
   congr! 7 with x - u y
   tauto
 
+/--
+A set `s` is codiscrete within `U` iff `s ∪ Uᶜ` is a punctured neighborhood of every point in `U`.
+-/
+theorem mem_codiscreteWithin_iff_all_nhdNE {S T : Set X} :
+    S ∈ codiscreteWithin T ↔ ∀ x ∈ T, ∀ᶠ z in 𝓝[≠] x, z ∈ S ∪ Tᶜ := by
```
Comment (sgouezel) [inline Mathlib/Topology/DiscreteSubset.lean]:
```suggestion
theorem mem_codiscreteWithin_iff_forall_mem_nhdsNE {S T : Set X} :
    S ∈ codiscreteWithin T ↔ ∀ x ∈ T, S ∪ Tᶜ ∈ 𝓝[≠] x := by
```
This formulation is simpler (but it says exactly the same thing!)

File: Mathlib/Topology/ClusterPt.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Topology/ClusterPt.lean]: Implemented both suggestions.

**Comment by sgouezel** [comment]
bors r+
Thanks!

**Comment by kebekus** [comment]
@sgouezel Thanks for all your work!
